US08097610B2
Preparation of [3-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-ylmethyl]phenyl]acetic acid methyl ester
A mixture of 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole (163 mg), (3-bromomethylphenyl)acetic acid methyl ester (126 mg), potassium carbonate (75 mg) and dimethylformamide (4 mL) was stirred at room temperature for 18 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (171 mg). Yield: 65%.

reactant | 2-(2,6-dimethyl piperazine-1-yl)-6-trifluoromethyl benzothiazole | 163 mg | CC1N(C(CNC1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C14H16F3N3S
reactant | (3-bromomethylphenyl)acetic acid methyl ester | 126 mg | COC(CC1=CC(=CC=C1)CBr)=O | C10H11BrO2
reactant | potassium carbonate | 75 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-[3,5-dimethyl-4-(6-trifluoromethyl benzothiazole-2-yl)piperazine-1-ylmethyl]phenyl]acetic acid methyl ester | 171 mg, Yield: 65% | COC(CC1=CC(=CC=C1)CN1CC(N(C(C1)C)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C)=O | C24H26F3N3O2S
